Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p apparent seizure and cardiac arrest
 
Major Surgical or Invasive Procedure:
Mechanical ventilation
Therapeutic hypothermia
 
History of Present Illness:
___ y/o female with PMH significant for epilepsy on Lamictal who 
presents after arrest.  Per report, the patient had 4 witnessed 
seizures at home - when EMS arrived, she was  apneic and 
pulseless, but then had ROSC without clear intervention/CPR.  
She was taken to an OSH where she went into VT which then 
devolved to PEA arrest.  She underwent 1 round of epinephrine 
and CPR with subsequent ROSC, given dilantin 1gm, was paralyzed, 
cooled, and transferred.

In the ED, initial VS were: 96.6 127/92 101 18 94% intubated.  
She had a CT Head which showed Severe cerebral edema with 
hypodense basal ganglia, consistent with hypoxic encephalopathy. 
2. Cerebellar tonsillar herniation, leftward subfalcine 
herniation, and sulcal effacement, consistent with increased 
intracranial pressure.  She was given vancomycin/zosyn for broad 
coverage, started on levophed and dopamine for bp support, given 
stress dose steroids, and given an amp of bicarb for low pH of 
7.00.
 
On arrival to the MICU, the patient is intubated, sedated, and 
being cooled.  Family is in the waiting area for the patient.

Review of systems:  Unable to be obtained
 
Past Medical History:
- epilepsy since her ___, GTC sz 2x/day at baseline, s/p VNS 
implantation. 
- s/p hysterectomy 
- hypertension
- hyperlipidemia
- depression
- s/p CCY 
- s/p tubal ligation 
- skin burns in the past  

 
Social History:
___
Family History:
Brother who developed seizures at age ___ and grew out of them, 
mom with CAD, dad died of lung cancer 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: BP: P: R: 18 O2:  
General: sedated, intubated
HEENT: Sclera anicteric, bloody secretions in mouth 
Neck: supple, JVP difficult to assess given, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: coarse rhonchi bilaterally
Abdomen: obese, soft, non-tender, non-distended, bowel sounds 
present  
GU: foley in place
Ext: cool, difficulty dopplering pulses, no edema
Neuro: pupils fixed and dilated, oculocephalic reflex positive, 
not overbreathing vent, no withdrawal to pain

DISCHARGE PHYSICAL EXAM:
Patient was pulseless, without corneal, pupillary reflexes, was 
apneic, and without heart sounds.  Time of death 1:03pm on 
___.
 
Pertinent Results:
FINDINGS:
CONTINUOUS EEG: The background shows generalized suppression, 
and no definite
cerebral activity is present at a sensitivity of 2uV/mm. At 
various points
throughout the record, there are frequent events characterized 
by the
appearance of periodic transients for several minutes at a time 
(e.g.
23:32:19; 00:33:41). The morphology and fixed periodicity within 
each of
these events suggests an artifactual etiology. There are no 
epileptiform
abnormalities or seizures recorded.
SPIKE DETECTION PROGRAMS: Captures some artifacts.
SEIZURE DETECTION PROGRAMS: None.
PUSHBUTTON ACTIVATIONS: None.
SLEEP: Structured sleep is not present.
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate of
110-120 bpm.
IMPRESSION: Abnormal continuous EEG study because of generalized 
suppression
and an absence of definite cerebral activity. There are no 
epileptiform
abnormalities or seizures.

INDICATION:  ___ female status post arrest with history 
of epilepsy.
 
COMPARISON:  None available.
 
TECHNIQUE:  Axial CT images through the head were acquired 
without intravenous
contrast.  Coronal, sagittal, and thin slice bone reconstructed 
images were
created and reviewed.
 
FINDINGS:  There is severe extensive cerebral edema with 
cerebellar tonsillar
herniation, mild leftward subfalcine herniation and sulcal 
effacement,
consistent with increased intracranial pressure.  There is 
crowding around
both unci without uncal herniation.  The basal ganglia are 
hypodense
bilaterally, consistent with hypoxic encephalopathy.  
 
Interdigitation of the frontal sulci and left colpocephaly 
suggests underlying
hypoplasia or agenesis of the corpus callosum.  Asymmetry of 
colpocephaly may
be due to trapping of the left lateral ventricle or compression 
of the right
lateral ventricle.  
 
Fluid with small aeroselized component layering in the right 
sphenoid sinus
may represent retained secretions secondary to intubated status. 
 The
visualized portions of the mastoid air cells appear well 
aerated. Arterial
calcifications are noted.  No acute bony abnormality is 
detected.  There is
persistence of the metopic suture with partial duplication of 
the sagittal
suture anteriorly. 
 
IMPRESSION:
1.  Severe cerebral edema with cerebellar tonsillar herniation 
and mild
leftward subfalcine herniation.
2.  Hypodense basal ganglia, consistent with hypoxia 
encephalopathy. 
3.  Underlying congenital abnormality, likely hypoplasia or 
agenesis of the
corpus callosum.
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION
==================================

#) STATUS POST CARDIORESPIRATORY ARREST - Patient with diffuse 
and global cerebral edema indicative of severe anoxic brain 
injury in setting of likely seizure.  From documentation so far, 
seems that a seizure set off this event - may have become 
hypoxic from seizure itself or from aspiration event during 
seizure.  Was cooled with therapeutic hypothermia.  Neuro exam 
concerning for brain death given lack of brainstem reflexed and 
no spontaneous breathing, but patient was initially cool.  
Initially treated with 150ml of hypertonic saline to help 
decrease pressure.  Patient was initially hyperventilated to try 
to increase pH. EEG showed absence of cerebral activity.

Antibiotics (vancomycin/pipercillin-tazobactam) continued for 
empiric treatment of possible sepsis.  Patient maintained on 
vasopressors to maintain MAP > 65.  Ventilator set with goal of 
PaCO2 of 35 mmHg to reduce risk of cerebral vasoconstriction.

A family meeting was held and discussed the necessity of 
re-warming the patient to formally diagnose her with brain 
death.  However, given the patient's extremely poor prognosis, 
they asked to simply withdraw care and let her pass peacefully.

The patient was extubated on ___.  Dr. ___ was called 
to the bedside for asystole on telemetry.  From his 
documentation: "I went to the bedside to examine the patient and 
found her to be apneic and unresponsive.  I examined the 
patient’s pupils and found that they were fixed and dilated 
without pupillary response to light.  She was without corneal 
reflexes bilaterally.  I palpated for the patient’s peripheral 
pulse and found that she was pulselesss.  I auscultated her 
chest and found that she was without breath sounds and without 
heart sounds.

Time of death was 1:03pm on ___.

Family, including health care proxy ___, was present 
at bedside at the time of pronunciation.

The patient’s primary care physician, ___ 
notified.

The MICU attending physician ___ was notified."
 
Medications on Admission:
Calcium Carbonate 600mg/Vit D 2 tablets PO daily; 

Vitamin D3 1000 IU PO daily;  

Premarin Vaginal cream 1 application to affected area;

Fesoterodine 4mg tablet PO QHS;

Fluoxetine 20mg PO daily; 

Lamictal 200mg BID

Simvastatin 40mg qHS

lisinopril 10mg qHS
 
Discharge Medications:
Patient expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired
 
Discharge Condition:
Patient expired
 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___